US06403595B1
4-(3-Bromobenzenesulfonyl)-1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone
To a mixture of 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone (1.19 g), sodium carbonate (848 mg), ethyl acetate (40 ml) and water (20 ml) was added 3-bromobenzenesulfonyl chloride (1.02 g), and the mixture was stirred at room temperature for 1 hour. The organic layer was separated, washed with saturated brine, dried and concentrated, and the residue was purified with silica gel column chromatography (hexane:ethyl acetate=1:2) to give colorless crystals of the title compound (1.05 g).

reactant | 1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone | 1.19 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1C(CNCC1)=O | C15H27N3O3
reactant | sodium carbonate | 848 mg | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 40 ml | C(C)(=O)OCC | C4H8O2
reactant | 3-bromobenzenesulfonyl chloride | 1.02 g | BrC=1C=C(C=CC1)S(=O)(=O)Cl | C6H4BrClO2S
solvent | water | 20 ml | O | H2O
product | 4-(3-Bromobenzenesulfonyl)-1-[1-(tert-butoxycarbonyl)-4-piperidylmethyl]-2-piperazinone | 1.05 g | BrC=1C=C(C=CC1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C(=O)OC(C)(C)C)=O | C21H30BrN3O5S
